US09120822B2
A solution of sodium hydroxide (500 mg, 12.5 mmol, 33.6 eq) in water (6 mL) is added at room temperature to a stirred solution of {trans-4-[1-(benzylamino-methyl)-2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-vinyl]-cyclohexyl}-carbamic acid tert-butyl ester (200 mg, 0.37 mmol, 1.0 eq) in tetrahydrofuran (6 mL). After 16 hours stirring at 60° C., tetrahydrofuran is removed and the residue is extracted with ethyl acetate (3×10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 5:1 to 3:1, v/v) to afford [trans-4-(1-benzyl-6-methoxy-1,2-dihydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester as a light yellow solid (110 mg, 59% yield).

reactant | sodium hydroxide | 12.5 mmol, 500 mg, 33.6 eq | [OH-].[Na+]
reactant | {trans-4-[1-(benzylamino-methyl)-2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-vinyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.37 mmol, 200 mg, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(=CC1=C(C=NC2=CC=C(N=C12)OC)Cl)CNCC1=CC=CC=C1)=O | C30H37ClN4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | [trans-4-(1-benzyl-6-methoxy-1,2-dihydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | 110 mg, 59% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=1CN(C=2C=NC3=CC=C(N=C3C2C1)OC)CC1=CC=CC=C1)=O | C30H36N4O3
